US05958910
N-[4-(4-Chloro-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide
A mixture of 0.3 g of 4-(4-chlorophenyl)-thiazol-2-ylamine hydrobromide with 0.22 g of p-toluenesulfonyl chloride was stirred overnight with 2 ml of pyridine. The resulting, red colored suspension was poured into 30 ml of 1N hydrochloric acid and the solid which thereby separated was filtered off and dissolved in a hot mixture of 20 ml of ethanol and 30 ml of water. 0.05 g of N-[4-(4-chlorophenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide separated as colorless crystals upon cooling.

reactant | 4-(4-chlorophenyl)-thiazol-2-ylamine hydrobromide | 0.3 g | Br.ClC1=CC=C(C=C1)C=1N=C(SC1)N
reactant | p-toluenesulfonyl chloride | 0.22 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 1N, 30 ml | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-(4-Chloro-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide | ClC1=CC=C(C=C1)C=1N=C(SC1)NS(=O)(=O)C1=CC=C(C=C1)C | C16H13ClN2O2S2
